US05159103
A solution of 3.5 g of (R)-2-tert-butoxycarbonylamino-7-carbethoxymethoxytetraline, EXAMPLE 3, in 35 ml of methylene chloride is cooled to 0° C. Then, there is added a solution of 7.7 ml of trifluoroacetic acid in 40 ml of methylene chloride and the mixture is left to stand under stirring at first 30 minutes at a temperature of 0°-5° C., then 4 hours at room temperature. After neutralization with a solution of sodium bicarbonate, the organic phase is separated, washed with water, dried and evaporated to dryness. The residue is taken up with 15 ml of ethyl acetate and made acid with a solution of hydrochloric acid in ethanol. The precipitated so obtained is filtered and washed with ether. Thus, 1.1 g of (R)-2-amino-7-carbethoxymethoxytetraline hydrochloride is obtained; m.p. 168°-171° C., /alpha/=+51.14° (methanol, c=1%). (b) To a solution of 5.8 g of (R)-2-tert-butoxycarbonylamino-7-carbethoxymethoxytetraline, EXAMPLE 3, in 135 ml of absolute ethanol there is added at room temperature 82 ml of a 7.2N solution of hydrogen chloride in ethanol. The mixture is left under stirring at room temperature for 150 minutes, then it is evaporated to dryness under reduced pressure. The residue is taken up with ethyl ether and filtered. Thus, 4.6 g of (R)-2-amino-7-carbethoxymethoxytetraline hydrochloride are obtained; m.p. 170°-171° C., /alpha/=+51° (methanol, c=1%). By crystallization from methanol, the melting point remains unchanged (170°-172° C.) and the /alpha/ rises to +51.6° (methanol, c=1%).

reactant | methanol | CO | CH4O
reactant | (R)-2-tert-butoxycarbonylamino-7-carbethoxymethoxytetraline | 5.8 g | C(C)(C)(C)OC(=O)N[C@H]1CC2=CC(=CC=C2CC1)OCC(=O)OCC | C19H27NO5
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 135 ml | C(C)O | C2H6O
product | (R)-2-amino-7-carbethoxymethoxytetraline hydrochloride | 4.6 g | Cl.N[C@H]1CC2=CC(=CC=C2CC1)OCC(=O)OCC | InChI=1S/C14H19NO3.ClH/c1-2-17-14(16)9-18-13-6-4-10-3-5-12(15)7-11(10)8-13;/h4,6,8,12H,2-3,5,7,9,15H2,1H3;1H/t12-;/m1./s1
